US07598383B2
Step E: Preparation of 4-chloro-1,3,8-trimethyl-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione:
To a solution of 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (1 equivalent) and hydrazine monohydrate (3.30 equivalents) in THF is added 1 N HCl (0.80 equivalents). After 16 hours, the reaction mixture is diluted with ethyl acetate, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure. The desired product purified by trituration or flash column chromatography to afford the desired product as necessary.

reactant | 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 1 equivalent | C(C)(=O)C=1N(C(C(=C(C1C(=O)O)Cl)C)=O)C | C10H10ClNO4
reactant | hydrazine monohydrate | 3.30 equivalents | O.NN
reactant | HCl | 1 N, 0.80 equivalents | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-1,3,8-trimethyl-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione | ClC1=C(C(N(C=2C(=NNC(C21)=O)C)C)=O)C | C10H10ClN3O2
